US04698337
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.0 g.) conc. hydrochloric acid (0.33 g.) and methanol (10 ml.) was stirred at room temperature for 4 hours. The precipitates were collected by filtration and washed with diethyl ether to give 7-[2-(2-aminothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 0.6 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.0 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCC(F)(F)F | C18H16F3N9O6S3
reactant | hydrochloric acid | 0.33 g | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2,2,2-trifluoroethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid hydrochloride | 0.6 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCC(F)(F)F | InChI=1S/C17H16F3N9O5S3.ClH/c1-28-16(24-26-27-28)37-3-6-2-35-13-9(12(31)29(13)10(6)14(32)33)23-11(30)8(7-4-36-15(21)22-7)25-34-5-17(18,19)20;/h4,9,13H,2-3,5H2,1H3,(H2,21,22)(H,23,30)(H,32,33);1H/t9?,13-;/m1./s1
